US04771050
Spraque-Dawley rats (male, 5-7-week-old, 5 animals per group) were fasted for 18 hours, and received injection of 70 mg/kg of streptozocin (Cal Biochem Co.) into the caudal vein under anesthesia with ether, so that diabetic rats were obtained. From immediately after the injection of streptozocin these rats were given orally the test compound of 50 mg/kg or 30 mg/kg in the form of 5% gum arabic suspension twice a day (at 10 a.m. and 5 p.m.) for 2 days. During this period the rats were allowed to take CE-2 diet (Clea Japan, Inc.) and water ad libitum. In the morning on the 3rd day (9 a.m.) the rats were killed (decapitation and venesection), and immediately the sciatic nerves were isolated, from which sorbitol was extracted according to the method of M. J. Peterson et al. described in Metabolism, 28, 456 (1979) and the sorbitol level was determined by the enzymatic method of P.S. Clements et al. in Science, 166, 1007 (1969). The results are expressed in percentage (%) taking the value of the untreated control group as 100, and shown in table 1.

reactant | streptozocin | CN(C(=O)N[C@@H]1[C@H]([C@@H]([C@H](OC1O)CO)O)O)N=O | C8H15N3O7
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
